US04381239
N-t-Butoxycarbonyl-ε-aminocaproic acid (2.31 g), 1-hydroxybenzotriazole (1.49 g) and dicyclohexylcarbodiimide (2.27 g) were dissolved in tetrahydrofuran (10 ml). Histamine dihydrochloride (1.84 g) and triethylamine (2.84 ml) were added to the solution and the mixture was stirred at room temperature for 5 hours. After completion of the reaction, the precipitate formed was filtered off and the filtrate was extracted with ethyl acetate. The extract was washed with 1% hydrochloric acid and then saturated aqueous sodium bicarbonate, dried and the solvent was distilled off to obtain N-t-butoxycarbonyl-ε-aminocaproyl histamine as an oil. The oil showed single spot (Rf: 0.76) in thin layer chromatography (solvent: chloroform-methanol-acetic acid (95:5:3). The oil thus obtained was treated with trifluoroacetic acid (5 ml) at room temperature for 30 minutes and ether was added to the mixture to obtain ε-aminocaproyl histamine (1.12 g) as an oil. The oil showed single spot (Rf: 0.47) in thin layer chromatography (solvent: n-butanol-acetic acid-water (4:1:1).

reactant | N-t-Butoxycarbonyl-ε-aminocaproic acid | 2.31 g | C(C)(C)(C)OC(=O)NCCCCCC(=O)O | C11H21NO4
reactant | 1-hydroxybenzotriazole | 1.49 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 2.27 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Histamine dihydrochloride | 1.84 g | Cl.Cl.NCCC1=CNC=N1
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 2.84 ml | C(C)N(CC)CC | C6H15N
product | N-t-butoxycarbonyl-ε-aminocaproyl histamine | C(C)(C)(C)OC(=O)N(CCC1=CNC=N1)C(CCCCCN)=O | C16H28N4O3
